US08222247B2
In a similar manner to Preparation 1, Step 2, the reaction of (4-morpholinophenyl)-(thiophen-2-yl)methanol (675 mg, 2.45 mmol), prepared from 4-morpholinobenzaldehyde and thiophen-2-ylmagnesium bromide, and (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane (2.48 ml, 12.3 mmol) in the presence of titanium tetrachloride (1M in DCM, 5.40 ml. 5.40 mmol) afforded methyl 2,2-dimethyl-3-(4-morpholinophenyl)-3-(thiophen-2-yl)propanoate (725 mg, 82.5% yield).). 1H NMR (400 MHz, CDCl3): δ 1.15 (s, 3H), 1.20 (s, 3H), 3.06 (m, 4H), 3.51 (s, 3H), 3.78 (m, 4H), 4.59 (s, 1H), 6.76 (d, 1H, J=8.5 Hz), 6.83 (m, 1H), 6.87 (m, 1H), 7.06 (m, 1H), 7.20 (d, 1H, J=8.5 Hz). HPLC Rt: 3.181 min.

reactant | (4-morpholinophenyl)-(thiophen-2-yl)methanol | 2.45 mmol, 675 mg | O1CCN(CC1)C1=CC=C(C=C1)C(O)C=1SC=CC1 | C15H17NO2S
reactant | 4-morpholinobenzaldehyde | O1CCN(CC1)C1=CC=C(C=O)C=C1 | C11H13NO2
reactant | thiophen-2-ylmagnesium bromide | S1C(=CC=C1)[Mg]Br
reactant | (1-methoxy-2-methylprop-1-enyloxy)trimethylsilane | 12.3 mmol, 2.48 ml | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
catalyst | titanium tetrachloride | 5.40 mmol, 1M, 5.40 ml | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 2,2-dimethyl-3-(4-morpholinophenyl)-3-(thiophen-2-yl)propanoate | 725 mg, 82.5% yield | CC(C(=O)OC)(C(C=1SC=CC1)C1=CC=C(C=C1)N1CCOCC1)C | C20H25NO3S
